US08791267B2
Synthesis of [4-(3′-Chloro-6-methoxy-biphenyl-3-ylmethyl)-phenyl]-carbamic acid tert-butyl ester (I-301).
Synthesis of [4-(3′-Chloro-6-methoxy-biphenyl-3-ylmethyl)-phenyl]-ethyl-carbamic acid tert-butyl ester (I-302) I-301 (140 mg, 0.33 mmol) was dissolved in 2 mL of DMF and stirred for 10 minutes under N2; then NaH was added. Once effervescence had ceased. ethyl iodide was added and the reaction mixture was stirred at room temperature for 2 hours and quenched with 20 mL of water. The mixture was extracted with ethyl acetate (3×5 mL), and the combined organic extracts were washed with brine and dried over Na2SO4. After filtration and removal of solvent, 120 mg (81%) of I-302 was collected.

reactant | [4-(3′-Chloro-6-methoxy-biphenyl-3-ylmethyl)-phenyl]-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)C1=CC=C(C=C1)CC=1C=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)=O | C27H30ClNO3
reactant | NaH | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [4-(3′-Chloro-6-methoxy-biphenyl-3-ylmethyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC=1C=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)=O | C25H26ClNO3
